US07820693B2
Morpholine (0.024 ml, 0.29 mmol) and triethylamine (0.040 ml, 0.29 mmol) were added to a THF solution (1 ml) that contained the obtained methanesulfonic acid 2-oxo-1-[1-oxo-3-(2-trifluoromethylphenyl)-1,2-dihydroisoquinolin-7-yl]-pyrrolidin-3-ylmethyl ester (14 mg, 0.029 mmol). The obtained mixture was heated to reflux for 16 hours. Thereafter, a saturated ammonium chloride aqueous solution was added to the reaction solution, and the obtained mixture was then extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was then distilled away under reduced pressure. The obtained residue was purified by silica gel column chromatography (methylene chloride:methanol=100:1->30:1), so as to obtain 7-(3-morpholin-4-ylmethyl-2-oxo-pyrrolidin-1-yl)-3-(2-trifluoromethylphenyl)-2H-isoquinolin-1-one (3 mg, 22%) in the form of a colorless oil substance.

reactant | Morpholine | 0.29 mmol, 0.024 ml | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.29 mmol, 0.040 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid 2-oxo-1-[1-oxo-3-(2-trifluoromethylphenyl)-1,2-dihydroisoquinolin-7-yl]-pyrrolidin-3-ylmethyl ester | 0.029 mmol, 14 mg | O=C1N(CCC1COS(=O)(=O)C)C1=CC=C2C=C(NC(C2=C1)=O)C1=C(C=CC=C1)C(F)(F)F | C22H19F3N2O5S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 7-(3-morpholin-4-ylmethyl-2-oxo-pyrrolidin-1-yl)-3-(2-trifluoromethylphenyl)-2H-isoquinolin-1-one | 3 mg, 22% | N1(CCOCC1)CC1C(N(CC1)C1=CC=C2C=C(NC(C2=C1)=O)C1=C(C=CC=C1)C(F)(F)F)=O | C25H24F3N3O3
